US07199136B2
4-({3-[(Diethylamino)methyl]phenyl}amino)-3-penten-2-one
1.00 g (9.99 mmol) Acetylacetone, 1.78 g (9.99 mmol) 3-[(diethylamino)methyl]-aniline, and 0.15 g (2.5 mmol) 4-toluenesulfonic acid are dissolved in 100 ml toluene. The reaction mixture is refluxed overnight with a Dean-Stark trap to remove water. 0.05 g (0.83 mmol) 4-toluenesulfonic acid are again added and the mixture is refluxed overnight. As tlc control showed that there is some 3-[(diethylamino)-methyl]aniline left, 0.2 g (2 mmol) acetylacetone are added and refluxing is continued for 4 h. To drive the reaction to completion, 0.6 ml (9.98 mmol) acetic acid and 0.2 g (2 mmol) acetylacetone are added and the mixture is refluxed overnight with a Dean-Stark trap. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with dichloromethane/methanol mixtures as eluent.

reactant | Acetylacetone | 9.99 mmol, 1.00 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 3-[(diethylamino)methyl]-aniline | 9.99 mmol, 1.78 g | C(C)N(CC)CC=1C=C(N)C=CC1 | C11H18N2
reactant | 4-toluenesulfonic acid | 2.5 mmol, 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-toluenesulfonic acid | 0.83 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetylacetone | 2 mmol, 0.2 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | acetic acid | 9.98 mmol, 0.6 ml | C(C)(=O)O | C2H4O2
reactant | acetylacetone | 2 mmol, 0.2 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-({3-[(Diethylamino)methyl]phenyl}amino)-3-penten-2-one | C(C)N(CC)CC=1C=C(C=CC1)NC(=CC(C)=O)C | C16H24N2O
